US06337344B1
(R)-1-(3-Amidino-benzyl)-5-benzyloxy-1H-indole-2-carboxylic acid (1-phenyl-ethyl)-amide acetic acid salt
This compound was prepared from 5-benzyloxy-1-(3-cyano-benzyl)-1H-indole-2-carboxylic acid and (R)-1-phenyl-ethyl-amine by using diphenylphosphoryl azide and diisopropylethylamine as described in example 3/1. The crude material was purified by flash chromatography on silica gel with dichloromethane to give the desired product in 73% yield. M.p. 169-170° C. MS: 486.3 (M+H+).

reactant | 5-benzyloxy-1-(3-cyano-benzyl)-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)C#N)C(=O)O | C24H18N2O3
reactant | (R)-1-phenyl-ethyl-amine | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (R)-1-(3-Amidino-benzyl)-5-benzyloxy-1H-indole-2-carboxylic acid (1-phenyl-ethyl)-amide acetic acid salt | 73% yield | C(C)(=O)O.C1(=CC=CC=C1)[C@@H](C)NC(=O)C=1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)CC1=CC(=CC=C1)C(N)=N | InChI=1S/C32H30N4O2.C2H4O2/c1-22(25-12-6-3-7-13-25)35-32(37)30-19-27-18-28(38-21-23-9-4-2-5-10-23)15-16-29(27)36(30)20-24-11-8-14-26(17-24)31(33)34;1-2(3)4/h2-19,22H,20-21H2,1H3,(H3,33,34)(H,35,37);1H3,(H,3,4)/t22-;/m1./s1
